US05151447
In a 2-liter flask equipped with a mechanical stirrer, two addition funnels, and a thermometer was placed one liter of ethyl acetate which was cooled to -5° to 0° C. Concurrently, N,N'-bis-(p-chlorophenyl)-3,3'-dithiodiisobutyramide (116.3 g, 0.254 mol), sulfuryl chloride (141.7 g, 1.05 mol), and pyridine (40.0 g, 0.05 mol) were added over a 75 minute period while maintaining the temperature at 0° C. The mixture was allowed to warm to room temperature and then cooled back to -40° C. using a dry-ice bath. The solid precipitate was removed by filtration, washed with cold ethyl acetate, triturated with one liter of water, refiltered, and dried to give 46 g of 2-(p-chlorophenyl)-4-methyl-4-isothiazolin-3-one and 2-(p-chlorophenyl)-4-methyl-5-chloro-4-isothiazolin-3-one in a 2/1 mixture ratio. The dried solid mixture, 45.5 g, and sulfuryl chloride, 19.0 g (0.135 mol) were added concurrently to 300 ml of ethyl acetate at 0° C. over a one hour period. After the addition, the mixture was allowed to warm to room temperature and stirred overnight. The solid suspension was removed by filtration and treated with sodium bicarbonate solution. The treated solid was removed, dried, and recrystallized from 2-propanol to give 9.5 g of 2-(p-chlorophenyl)-4-methyl-4-isothiazolin-3-one intermediate whose m.p.=157°-159° C.

reactant | N,N'-bis-(p-chlorophenyl)-3,3'-dithiodiisobutyramide | 0.254 mol, 116.3 g | ClC1=CC=C(C=C1)NC(C(CSSCC(C(=O)NC1=CC=C(C=C1)Cl)C)C)=O | C20H22Cl2N2O2S2
reactant | sulfuryl chloride | 1.05 mol, 141.7 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | pyridine | 0.05 mol, 40.0 g | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | one liter | C(C)(=O)OCC | C4H8O2
product | 2-(p-chlorophenyl)-4-methyl-4-isothiazolin-3-one | 46 g | ClC1=CC=C(C=C1)N1SC=C(C1=O)C | C10H8ClNOS
